US06734306B2
A. Diethyl meso-1-Benzyl-2,5-pyrrolidinedicarboxylate
A solution of Diethyl meso-2,5-dibromoadipate (50 g, 139 mmol) in benzene (150 mL) was heated to reflux. Then heating was discontinued and benzylamine (50 mL) was added under stirring in 1 h. At the end of the addition, the mixture was refluxed for 20 h. After cooling down, the hydrobromide salt was filtered off and washed with benzene, and the benzene solution was evaporated. The residue was distilled under reduced pressure (180-190° C./0.3 mmHg) to give a product (39.9 g, 94%) as a yellow oil.

reactant | Diethyl meso-2,5-dibromoadipate | 139 mmol, 50 g | CCOC(=O)C(CCC(C(=O)OCC)Br)Br | C10H16Br2O4
reactant | benzylamine | 50 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | Diethyl meso-1-Benzyl-2,5-pyrrolidinedicarboxylate | 39.9 g, 94% | CCOC(=O)C1CCC(N1CC2=CC=CC=C2)C(=O)OCC | C17H23NO4
